US05411973
1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenylamino)propan-2-ol.
To a solution of N-(4-phenylsulfonylphenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide (0.5 g, 1.33 mmol) in tetrahydrofuran (10 mL) at 0° C. was added a solution of borane in tetrahydrofuran (3.14 mL of 1.0M, 3.14 mmol) in a dropwise manner. The mixture was stirred at 0° C. for 15 minutes and was then refluxed for 18 hours. Excess borane was quenched by the careful addition of methanol. Evaporation of the mixture gave a white solid. The solid was partitioned between an aqueous sodium bicarbonate solution and dichloromethane. The combined organic extracts were dried and evaporated to yield the title compound (0.16 g); mp 145°-146° C.; NMR 1.27 (s,3, CH3), 3.32 (d,2, CH2), 6.13 (s,1, OH), 6.70 (m,1, NH), 6.82 (d,2, J=8.8, Ar), 7.58 (m,5, Ar), 7.84 (d,2, J=7.7, Ar); MS: m/z=360 (M+1). Analysis for C16H16F3NO3S.0.75 H2O: Calculated: C, 51.54; H, 4.73; N, 3.76; Found: C, 51.63; H, 4.38; N, 3.70.

reactant | N-(4-phenylsulfonylphenyl)-3,3,3-trifluoro-2-hydroxy-2-methylpropanamide | 1.33 mmol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)(F)F)(C)O)=O | C16H14F3NO4S
reactant | borane | B | BH3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.14 mmol, 1.0M, 3.14 mL | O1CCCC1 | C4H8O
product | 1,1,1-Trifluoro-2-methyl-3-(4-phenylsulfonylphenylamino)propan-2-ol | 0.16 g | FC(C(CNC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)(O)C)(F)F | C16H16F3NO3S
